US05877191
(3S,5R,6S,7S)-6-(4-Fluorophenyl)-3-(2,5-bis-(trifluoromethyl)phenyl)-1-oxaspiro[4.4]nonane-7-carboxylic acid methyl ester
The title compound was prepared by the procedure given in Example 6, Step G, employing (5R,6S,7S)-6-(4-fluorophenyl)-3-(2,5-bis-(trifluoromethyl)phenyl)-1-oxaspiro[4.4]non-3-ene-7-carboxylic acid methyl ester in place of methyl[5-(RS),6-(SR),7-(SR)]-6-(4-fluorophenyl)-3-(2-methoxy-5-((5-trifluoromethyl)tetrazol-1-yl)phenyl)-1-oxaspiro[4.4]non-3-ene-7-carboxylate, except that acetic acid was not used as a cosolvent and the reaction time was extended to between 2 and 16 hr. MS (NH3 /CI): m/e=491 (M+1).

reactant | (5R,6S,7S)-6-(4-fluorophenyl)-3-(2,5-bis-(trifluoromethyl)phenyl)-1-oxaspiro[4.4]non-3-ene-7-carboxylic acid methyl ester | COC(=O)[C@@H]1[C@H]([C@]2(C=C(CO2)C2=C(C=CC(=C2)C(F)(F)F)C(F)(F)F)CC1)C1=CC=C(C=C1)F | C24H19F7O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (3S,5R,6S,7S)-6-(4-Fluorophenyl)-3-(2,5-bis-(trifluoromethyl)phenyl)-1-oxaspiro[4.4]nonane-7-carboxylic acid methyl ester | COC(=O)[C@@H]1[C@H]([C@]2(C[C@H](CO2)C2=C(C=CC(=C2)C(F)(F)F)C(F)(F)F)CC1)C1=CC=C(C=C1)F | C24H21F7O3
